US08541596B2
N-((1H-Benzo[d]imidazol-5-yl)methyl)benzenamine
The compound was synthesized starting from benzimidazol-5-carbaldehyde (146 mg; 1 mmol; 1 eq.), aniline (0.095 ml; 1 mmol; 1 eq.), NaBH(AcO)3 (318 mg; 1.5 mmol; 1.5 eq.) and AcOH (0.095 ml; 1.5 mmol; 1.5 eq.) as described above. Yield: 0.160 g (71%); MS m/z: 224.3 [M+H]+; 1H-NMR (400 MHz, DMSO d6): δ 4.34-4.35 (m, 2H); 6.20.6.21 (m, 1H); 6.45-6.49 (m, 1H); 6.57-6.59 (m, 1H); 6.98-7.02 (m, 1H); 7.17-7.26 (m, 2H); 7.39-7.43 (m, 1H); 7.49-7.52 (m, 2H); 12.34-12.39 (br m, 1H); HPLC (METHOD [A]): rt 8.16 min (97.3%)

reactant | benzimidazol-5-carbaldehyde | 1 mmol, 146 mg, 1 eq. | N1=CNC2=C1C=CC(=C2)C=O | C8H6N2O
reactant | aniline | 1 mmol, 0.095 ml, 1 eq. | NC1=CC=CC=C1 | C6H7N
reactant | NaBH(AcO)3 | 1.5 mmol, 318 mg, 1.5 eq. | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | AcOH | 1.5 mmol, 0.095 ml, 1.5 eq. | CC(=O)O | C2H4O2
product | N-((1H-Benzo[d]imidazol-5-yl)methyl)benzenamine | N1C=NC2=C1C=CC(=C2)CNC2=CC=CC=C2 | C14H13N3
